US06495581B1
A mixture of 3-(chloromethyl)-5-phenylisoxazole (340 mg), methyl E-4-(4-hydroxybenzyloxyimino)-4-phenylbutyrate (500 mg), potassium carbonate (442 mg) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 72 hours. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain methyl E-4-phenyl-4-[4-(5-phenyl-3-isoxazolylmethoxy)benzyloxyimino]butyrate (472 mg, yield 63%) as a colorless oil from an ethyl acetate-hexane (2:9, v/v)-eluted fraction.

reactant | 3-(chloromethyl)-5-phenylisoxazole | 340 mg | ClCC1=NOC(=C1)C1=CC=CC=C1 | C10H8ClNO
reactant | methyl E-4-(4-hydroxybenzyloxyimino)-4-phenylbutyrate | 500 mg | OC1=CC=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C1 | C18H19NO4
reactant | potassium carbonate | 442 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | Water | O | H2O
product | methyl E-4-phenyl-4-[4-(5-phenyl-3-isoxazolylmethoxy)benzyloxyimino]butyrate | 472 mg, yield 63% | C1(=CC=CC=C1)/C(/CCC(=O)OC)=N/OCC1=CC=C(C=C1)OCC1=NOC(=C1)C1=CC=CC=C1 | C28H26N2O5
